### PR TITLE
feat(ErdosProblems): 951

### LINKED ISSUE #1030: Erdős Problem 951
### What is the conjecture

https://www.erdosproblems.com/951

  Let $1<a_1<\cdots$ be a sequence of real numbers such that
$$\left\lvert \prod_i a_i^{k_i}-\prod_j a_j^{\ell_j}\right\rvert \geq 1$$
for every distinct pair of non-negative finitely supported integer tuples $k_i,\ell_j\geq 0$. Is it true that
$$\\#\\{ a_i \leq x\\} \leq \pi(x)?$$

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by CoolRmal**
Closes #1030

Co-authored-by: Aristotle (Harmonic) [aristotle-harmonic@harmonic.fun](mailto:aristotle-harmonic@harmonic.fun).

I use https://en.wikipedia.org/wiki/Beurling_zeta_function and https://arxiv.org/pdf/math/0410270 as my reference for the definition of Beurling primes and Beurling integers.

Erdős’s formulation about Beurling's conjecture is somewhat imprecise. In particular, I am unsure about what are the assumptions of `a` in Beurling's conjecture. As Beurling is famous for his contributions to the Beurling primes, I guess that `a` need to be a set of Beurling primes in the conjecture.

Screenshot 2026-01-25 at 3 33 40 AM
This picture is a screenshot from https://www.renyi.hu/~p_erdos/1977-27.pdf

### CODE REVIEW

File: FormalConjectures/ErdosProblems/951.lean [hunk 1]
```diff
@@ -0,0 +1,72 @@
...
+ - [Wikipedia](https://en.wikipedia.org/wiki/Beurling_zeta_function)
+ - [Beurling Zeta Functions, Generalised Primes, and Fractal Membranes](https://arxiv.org/abs/math/0410270)
+-/
+
+open scoped Finsupp Nat.Prime Topology
+open Filter
+
+/-- A sequence `a : ℕ → ℝ` is said to have property `Erdos951` if for any pair of distinct
+Beuring integers `x, y`, `|x - y| ≥ 1`. -/
+def Erdos951 (a : ℕ → ℝ) : Prop :=
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/951.lean]: To avoid a linter issue later on (but this should ideally be in the same namespace as the rest)
```suggestion
def Erdos951_prop (a : ℕ → ℝ) : Prop :=
```

File: FormalConjecturesForMathlib/NumberTheory/BeurlingPrimes.lean [hunk 2]
```diff
@@ -0,0 +1,50 @@
...
+distributed under the License is distributed on an "AS IS" BASIS,
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import Mathlib.Algebra.BigOperators.Finsupp.Basic
+import Mathlib.Data.Real.Basic
+import Mathlib.Order.Filter.AtTopBot.Defs
+
```
Comment (Paul-Lez) [inline FormalConjecturesForMathlib/NumberTheory/BeurlingPrimes.lean:20]: Here I think it would be useful to add a reference!

File: FormalConjecturesForMathlib/NumberTheory/BeurlingPrimes.lean [hunk 3]
```diff
@@ -0,0 +1,58 @@
...
+/-- A sequence of real numbers `1 < a 0 < a 1 < ...` is called a set of Beurling prime numbers if
+it tends to infinity. -/
+noncomputable def IsBeurlingPrimes (a : ℕ → ℝ) : Prop :=
+  1 < a 0 ∧ StrictMono a ∧ Tendsto a atTop atTop
+
+/-- The set of Beurling integers are numbers of the form `∏ i, (a i) ^ (k i)`, where `k` has
+finite support. -/
+def BeurlingInteger (a : ℕ → ℝ) : Set ℝ :=
+  let g : (ℕ →₀ ℕ) → ℝ := fun k => k.prod (fun x y => (a x) ^ y)
```
Comment (Paul-Lez) [inline FormalConjecturesForMathlib/NumberTheory/BeurlingPrimes.lean]: That way the value of `g` is automatically inlined into the definition
```suggestion
  letI g : (ℕ →₀ ℕ) → ℝ := fun k => k.prod (fun x y => (a x) ^ y)
```

File: FormalConjectures/ErdosProblems/951.lean [hunk 4]
```diff
@@ -0,0 +1,70 @@
...
+    ∀ a : ℕ → ℝ, Erdos951_prop a → ∀ (x : ℝ), {i : ℕ | a i ≤ x}.ncard ≤ π ⌊x⌋₊ := by
+  sorry
+
+/-- Beurling conjectured that if the number of Beurling integer in `[1, x]`
+is `x + o(log x)`, then `a` must be the sequence of primes. -/
+@[category research solved, AMS 11]
+theorem erdos_951.Beurling : answer(sorry) ↔
+    ∀ a : ℕ → ℝ, IsBeurlingPrimes a →
+    ((fun x => (BeurlingInteger a ∩ .Iic x).ncard - x) =o[atTop] Real.log) →
+    ∀ i, a i = Nat.nth Nat.Prime i  := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/951.lean]: (untested)
```suggestion
    a = Nat.nth Nat.Prime := by
```

File: FormalConjectures/ErdosProblems/951.lean [hunk 5]
```diff
@@ -0,0 +1,70 @@
...
+ - [Er77c] Erdős, Paul, Problems and results on combinatorial number theory. III. Number theory day (Proc. Conf., Rockefeller Univ.,
+    New York, 1976) (1977), 43-72.
+-/
+
+open scoped Finsupp Nat.Prime Topology
+open Filter
+
+namespace Erdos951
+
+/-- A sequence `a : ℕ → ℝ` is said to have property `Erdos951` if for any pair of distinct
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/951.lean]:
```suggestion
/-- A sequence `a : ℕ → ℝ` is said to have property `Erdos951_prop` if for any pair of distinct
```

File: FormalConjectures/ErdosProblems/951.lean [hunk 6]
```diff
@@ -0,0 +1,70 @@
...
+/-- If `a` has property `Erdos951`, is it true that `#{a i ≤ x} ≤ π x`? -/
+@[category research open, AMS 11]
+theorem erdos_951 : answer(sorry) ↔
+    ∀ a : ℕ → ℝ, Erdos951_prop a → ∀ (x : ℝ), {i : ℕ | a i ≤ x}.ncard ≤ π ⌊x⌋₊ := by
+  sorry
+
+/-- Beurling conjectured that if the number of Beurling integer in `[1, x]`
+is `x + o(log x)`, then `a` must be the sequence of primes. -/
+@[category research solved, AMS 11]
+theorem erdos_951.Beurling : answer(sorry) ↔
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/951.lean]: Since this conjecture wasn't phrased as a question, let's not use the `answer` convention
```suggestion
theorem erdos_951.variants.beurling :
```

**Review by Paul-Lez — APPROVED** [review]
Nice work, thanks!

File: FormalConjectures/ErdosProblems/951.lean (hunk 4 above)
Comment (CoolRmal) [reply FormalConjectures/ErdosProblems/951.lean]: `a` is of type `ℕ → ℝ`, so this equality is actually not valid. I eventually used `a = Nat.cast ∘ Nat.nth Nat.Prime`.

**Comment by mo271** [comment]
Thanks!
